US06951932B2
Step E: Preparation of 2-[2-(4-chlorophenyl)ethoxy]adenosine
A 2 liter stainless steel autoclave is charged with 6-chloro-2-[2-(4-chlorophenyl)-ethoxy]-9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)purine (22.4 g, 39.4 mmoles) and anhydrous ethanol (800 mL) and chilled to −50° C. Liquid ammonia (200 mL) is condensed, added to the autoclave, the autoclave sealed, and the mixture heated to 105±5° C. for 24 hours. The autoclave is then cooled in an ice bath and vented when the pressure drops below 100 psi. After evaporating to approximately 250 mL, activated charcoal (2 g) is added, the mixture heated to reflux for 30 minutes, filtered through Celite®, and evaporated to dryness. The residue is extracted with boiling ethyl acetate (3×250 mL), then partitioned between ethyl acetate (200 mL) and water (250 mL). The final ethyl acetate extraction is washed once with water (100 mL), dried (Na2SO4), filtered, and added to the original ethyl acetate extracts. The combined organic extracts are evaporated to dryness and the solid recrystallized from ethanol (100 mL). The crystalline product is collected by filtration, washed with cold ethanol, and dried at 75° C./2 Torr for 24 hours. A second crop is obtained by concentrating the mother liquor and a third crop may be collected by chromatography of the mother liquor.

reactant | 6-chloro-2-[2-(4-chlorophenyl)-ethoxy]-9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)purine | 39.4 mmoles, 22.4 g | ClC1=C2N=CN(C2=NC(=N1)OCCC1=CC=C(C=C1)Cl)[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C24H24Cl2N4O8
reactant | ammonia | 200 mL | N | H3N
solvent | ethanol | 800 mL | C(C)O | C2H6O
product | 2-[2-(4-chlorophenyl)ethoxy]adenosine | ClC1=CC=C(C=C1)CCOC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C18H20ClN5O5
